Name:  ___       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
new diagnosis vasa previa

 
Major Surgical or Invasive Procedure:
primary C-section
hospitalization fetal well being monitoring

 
History of Present Illness:
___ G1 at ___ with new diagnosis of vasa previa. She has
been followed for low lying placenta. TVUS today showed
persistently low lying placenta 1.1cm from cervical os with vasa
previa. Denies ctx, VB, LOF. +FM. c/o 2 months of vaginal
itching, slight yellow discharge. Thinks she has a yeast
infection.

 
Past Medical History:
PNC: 
- ___ ___ by LMP (___)
- Labs O+/Abs neg/Rub nonimmune /RPRNR /HBsAg neg /HIV neg/GBS
pos by urine
- LR ERA 
- nl FFS, anterior placenta previa 
- nl GLT (92)
- U/S: see above
- Issues:
*) vasa previa
*) IUI pregnancy, due to PCOS, infertility
*) Anemia, taking iron supplement
 
OBHx:
- G1, as above
 
GynHx:
- denies fibroids, Gyn surgery, STIs
- never had Pap smear
 
PMH: anemia, hypothyroid, anxiety/depression (followed by Dr.
___
 
PSH: hymenectomy

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
VSS
NAD, comfortable
Abdomen soft, NT, ND. Incision C/D/I. 
 
Pertinent Results:
___ 05:00PM BLOOD WBC-16.1*# RBC-3.43* Hgb-10.5* Hct-32.0* 
MCV-93 MCH-30.6 MCHC-32.8 RDW-14.0 RDWSD-47.3* Plt ___
___ 10:18AM BLOOD Hct-28.5*
.
___ 3:42 pm SWAB      Source: Vaginal. 

                            **FINAL REPORT ___

   SMEAR FOR BACTERIAL VAGINOSIS (Final ___: 
      GRAM STAIN NEGATIVE FOR BACTERIAL VAGINOSIS. 

   YEAST VAGINITIS CULTURE (Final ___: 
      YEAST.    SPARSE GROWTH. 
 
Brief Hospital Course:
Ms. ___ was admitted to the antepartum service 
for fetal monitoring after an ultrasound done for follow up of a 
low-lying placenta showed a vasa previa. She received one course 
of betamethasone for fetal lung maturity. 
.
She had complained of vaginitis on admission, and was found to 
have a yeast infection. She was treated with one week of 
miconazole. 
.
She had reassuring fetal status during her monitoring. She 
underwent a planned and uncomplicated low transverse cesarean 
section at 35w1d. Please see operative note for full details. 
.
Her postoperative course was uncomplicated. 
.
Throughout her admission she was continued on her home 
medications for anxiety and depression. She was also followed by 
Social Work. She was continued on her home dose of ___ 
Thyroid for her hypothyroidism.
.
By post-operative day 5, she was tolerating a regular diet, 
ambulating independently, and her pain was controlled with oral 
pain medications. She was discharged home in stable condition 
with a plan for outpatient follow up.
 
Medications on Admission:
Meds: PNV, iron, Armour thyroid, celexa 5mg qD, vitamin D 
 
All: NKDA

 
Discharge Medications:
1. Escitalopram Oxalate 5 mg PO DAILY 
2. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth four times a day Disp 
#*45 Tablet Refills:*0
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth four times a day Disp 
#*40 Tablet Refills:*0
4. Thyroid 30 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vasa previa with placenta
anxiety disorder
hypothyroid

 
Discharge Condition:
good

 
Discharge Instructions:
rest. no heavy lifting, exercise, baths for 4 weeks
 
Followup Instructions:
___